US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-10b-methyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and an isomeric mixture of cis-10b-methyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline and trans-10b-methyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1 yielding a mixture of Example 10 and Example 11 which is separated by HPLC on reversed phase (MeOH/H2O/NH4OH). Yield: 20% of theory; LC (method 2): tR=3.40 min; Mass spectrum (ESI+): m/z=346 [M+H]+; 1H NMR (400 MHz, DMSO-d6, mixture of 2 rotamers) δ 1.33 (s, 3H), 1.42-1.53 (m, 2H), 1.62-1.78 (m, 1H), 2.15-2.23 (m, 1H), 2.27-2.35 (m, 1H), 2.75-2.90 (m, 3H), 3.07-3.18 (m, 1H), 3.43-3.49 (m, 1H), 3.69-3.77 (m, 1H), 7.04-7.18 (m, 3H), 7.20-7.34 (m, 2H), 7.56 (broad s, 0.75H), 7.58 (broad s, 0.25H), 7.67 (broad s, 0.75H), 7.69 (broad s, 0.25H), 8.29 (s, 1H), 12.53-12.62 (m, 1H).

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-10b-methyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C[C@@]12CCCN[C@H]2CCC2=C1C=CC=C2 | C14H19N
reactant | trans-10b-methyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C[C@]12CCCN[C@H]2CCC2=C1C=CC=C2 | C14H19N
product | (1H-Benzoimidazol-5-yl)-(cis-10b-methyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | Yield: 20% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@]1(C3=C(CC[C@H]21)C=CC=C3)C | C22H23N3O
